US08470841B2
trans-N-{3-[5-(4-Cyclopentyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide
trans-N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide (24 mg, 0.062 mmol) was hydrogenated and reacted with cyclopentyl bromide in analogy to example 5. Yield: 6 mg (34%) M+H+: 364.21.

reactant | trans-N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | 0.062 mmol, 24 mg | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C22H27NO5
reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
product | trans-N-{3-[5-(4-Cyclopentyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | C1(CCCC1)OC1=CC=C(O[C@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C20H29NO5
